US07176196B2
tert-Butyl 2-cyano-4-fluorobenzylcarbamate.
A suspension of intermediate 105, 2-((1,3-dioxoisoindolin-2-yl)methyl)-5-fluorobenzonitrile, (5.6 g, 20 mmol) in dimethylformamide (20 mL) was warmed until it was dissolved. To this was added tetrahydrofaran (100 mL) and the mixture placed in a pre-heated (70° C.) oil bath. Hydrazine monohydrate was added to this and the reaction stirred for 8 h. The resulting white slurry was left at ambient temperature overnight. To this slurry was added di-tert-butyldicarbonate (6.55 g, 30 mmol) and the mixture stirred for 6 h at room temperature. The reaction mixture was diluted with ether (100 mL), filtered and the filtrate treated with activated carbon at 40° C. After filtration and concentration the crude product was purified by flash chromatography, using 20–30% ethyl acetate/Hexanes as eluent, to provide the title compound (2.88 g, 58% yield) as a light yellow powder. 1H NMR (500 MHz, CDCl3) δ: 9.46 (1H, br s), 7.61 (1H, dd, J=7.9, 2.1 Hz), 7.34 (1H, dd, J=8.2, 4.6 Hz), 7.22 (1H, td, J=8.6, 2.4 Hz), 4.71 (2H, s), 1.59 (9H, s). LCMS (M+H) calcd for C13H16FN2O2: 251.12; found: 251.22.

reactant | 2-((1,3-dioxoisoindolin-2-yl)methyl)-5-fluorobenzonitrile | 20 mmol, 5.6 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=C(C#N)C=C(C=C1)F | C16H9FN2O2
reactant | Hydrazine monohydrate | O.NN
reactant | di-tert-butyldicarbonate | 30 mmol, 6.55 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ether | 100 mL | CCOCC | C4H10O
product | tert-Butyl 2-cyano-4-fluorobenzylcarbamate | 2.88 g, 58% yield | C(#N)C1=C(CNC(OC(C)(C)C)=O)C=CC(=C1)F | C13H15FN2O2
